* write_driver nominal characterization
.include /workspace/support/models.spice
.include dut.spice
.temp 27
Vdd vdd 0 1
Xdut din BL BR wen vdd gnd write_driver
Vdin din 0 PULSE(0 1 500p 10p 10p 490p 1n)
Ven wen 0 PWL(0 1 2n 1 2.01n 0)
Cl bl 0 10f
Cr br 0 10f
Vmid mid 0 .5
Rl bl mid 100k
Rr br mid 100k
.tran 1p 12n
.meas tran bl_low find v(bl) at=300p
.meas tran br_high find v(br) at=300p
.meas tran bl_high find v(bl) at=710p
.meas tran br_low find v(br) at=710p
.meas tran z_bl find v(bl) at=11.9n
.meas tran z_br find v(br) at=11.9n
.meas tran supply avg par('-v(vdd)*i(Vdd)') from=0 to=2n

.control
run
write waveform.raw v(din) v(bl) v(br) v(wen) v(vdd) i(Vdd)
quit
.endc
.end
